* Z:\home\boris\dev\circuit-design-fundamentals\lab1\LTSpice\testing_cmos_nor.asc
XX1 N002 VDD N001 N003 cmos_nor params: T_SIZE=4
VB N003 0 PULSE(0 1 2ms 10n 10n 2ms 4ms)
VA N001 0 PULSE(0 1 1ms 10n 10n 2ms 4ms)
C1 N002 0 100f
VDD1 VDD 0 1

* block symbol definitions
.subckt cmos_nor OUT VDD A B
M2 N001 B OUT NC_01 PMOS
M1 VDD A N001 NC_02 PMOS
M3 OUT B 0 NC_03 NMOS
M4 OUT A 0 NC_04 NMOS
.ends cmos_nor

.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\boris\Documents\LTspiceXVII\lib\cmp\standard.mos
.include 90nm_bulk.txt
.tran 0 50ms 0 1ms
.backanno
.end
