* C:\users\boris\Desktop\dev\circuit-design-fundamentals\lab1\LTSpice\testing_demultiplexer_1_to_4.asc
XX1 N005 N002 N001 N003 N004 N006 N007 N008 demultiplexer_1_to_4
VDD1 N008 0 1
VY N005 0 PULSE(0 1 3ms 10n 10n 10ms 20ms)
VS1 N002 0 PULSE(0 1 2ms 10n 10n 3ms 6ms)
VS0 N001 0 PULSE(0 1 1ms 10n 10n 3ms 6ms)
C1 0 N003 100f
C2 0 N004 100f
C3 0 N006 100f
C4 0 N007 100f

* block symbol definitions
.subckt demultiplexer_1_to_4 Y S1 S0 Z0 Z1 Z2 Z3 VDD
XX1 N004 VDD S0 S0 cmos_nor
XX2 N009 VDD S1 S1 cmos_nor
XX3 N003 VDD Y Y cmos_nor
XX4 N001 VDD S0 S1 cmos_nor
XX5 N002 VDD N001 N001 cmos_nor
XX6 Z0 VDD N002 N003 cmos_nor
XX7 N005 VDD N004 S1 cmos_nor
XX8 N006 VDD N005 N005 cmos_nor
XX9 Z1 VDD N006 N003 cmos_nor
XX10 N007 VDD S0 N009 cmos_nor
XX11 N008 VDD N007 N007 cmos_nor
XX12 Z2 VDD N008 N003 cmos_nor
XX13 N010 VDD N004 N009 cmos_nor
XX14 N011 VDD N010 N010 cmos_nor
XX15 Z3 VDD N011 N003 cmos_nor
.ends demultiplexer_1_to_4

.subckt cmos_nor OUT VDD A B
M2 N001 B OUT NC_01 PMOS
M1 VDD A N001 NC_02 PMOS
M3 OUT B 0 NC_03 NMOS
M4 OUT A 0 NC_04 NMOS
.ends cmos_nor

.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\boris\Documents\LTspiceXVII\lib\cmp\standard.mos
.include 90nm_bulk.txt
.tran 0 50ms 0 1ms
.backanno
.end
